US05155130
The starting material is prepared as follows: 6-Bromo-2H-1-benzopyran-3-carboxaldehyde (5.00 g, 20.9 mmol), phenylboronic acid (2.81 g, 23.1 mmol), and tetrakis(triphenylphosphine)palladium(0) (725 mg, 0.63 mmol) are dissolved in 50 ml of toluene and treated with 25 ml of aqueous 2M sodium carbonate under nitrogen. The mixture is heated at reflux for 6 hours. The reaction mixture is cooled and extracted with ether (3×). The combined ethereal extracts are dried (MgSO4) and evaporated. Flash chromatography (silica gel, 5% ethyl acetate/hexane), yields 6-phenyl-2H-1-benzopyran-3-carboxaldehyde, m.p. 108°-110° C., which is converted to the final product as described above.

reactant | 6-Bromo-2H-1-benzopyran-3-carboxaldehyde | 20.9 mmol, 5.00 g | BrC=1C=CC2=C(C=C(CO2)C=O)C1 | C10H7BrO2
reactant | phenylboronic acid | 23.1 mmol, 2.81 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.63 mmol, 725 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-phenyl-2H-1-benzopyran-3-carboxaldehyde | C1(=CC=CC=C1)C=1C=CC2=C(C=C(CO2)C=O)C1 | C16H12O2
